US08314097B2
4-[2-(tert-Butyl-dimethylsilanyloxy)ethyl]-1-trityl-1H-imidazole (6.5 g, 14.0 mmol) and bromo-(3-fluoro-4-methoxyphenyl)acetic acid methyl ester (5.8 g, 21.0 mmol) are stirred in 60 mL MeCN at room temperature for 2 days. At that point MeOH (50 mL) and Et2NH (50 mL) are then added and the resulting solution heated at 75° C. for 0.5 h. The solution is evaporated and the residue purified via flash column chromatography (EtOAc/DCM 1:9→EtOAc/DCM 1:1) to give {5-[2-(tert-butyldimethylsilanyloxy)ethyl]-imidazol-1-yl}-(3-fluoro-4-methoxyphenyl)acetic acid methyl ester as an oil. MS (ESI) m/z 423.3 (M+H).

reactant | 4-[2-(tert-Butyl-dimethylsilanyloxy)ethyl]-1-trityl-1H-imidazole | 14.0 mmol, 6.5 g | [Si](C)(C)(C(C)(C)C)OCCC=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C30H36N2OSi
reactant | bromo-(3-fluoro-4-methoxyphenyl)acetic acid methyl ester | 21.0 mmol, 5.8 g | COC(C(C1=CC(=C(C=C1)OC)F)Br)=O | C10H10BrFO3
reactant | MeOH | 50 mL | CO | CH4O
reactant | Et2NH | 50 mL | N(CC)CC | C4H11N
solvent | MeCN | 60 mL | CC#N | C2H3N
product | {5-[2-(tert-butyldimethylsilanyloxy)ethyl]-imidazol-1-yl}-(3-fluoro-4-methoxyphenyl)acetic acid methyl ester | COC(C(C1=CC(=C(C=C1)OC)F)N1C=NC=C1CCO[Si](C)(C)C(C)(C)C)=O | C21H31FN2O4Si
